US06262044B1
To a mixture of 2-amino-7-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester (6.0 g, 0.014 mol) in ethanol (100 ml) was added hydrazine hydrate (1.4 ml, 0.028 mol). The reaction mixture was heated at reflux for 1 h, cooled and the precipitate filtered off. The filtrate was evaporated in vacuo and to the residue was added water (100 ml) and the resulting mixture was extracted with diethyl ether (2×100 ml). The combined organic extracts were washed with brine (100 ml), dried (Na2SO4), filtered and the solvent evaporated in vacuo affording 2.9 g (71%) of 2-amino-7-aminomethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester as an oil.

reactant | 2-amino-7-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 0.014 mol, 6.0 g | C(C)(C)(C)OC(=O)C1=C(SC=2C(OCCC21)CN2C(C1=CC=CC=C1C2=O)=O)N | C21H22N2O5S
reactant | hydrazine hydrate | 0.028 mol, 1.4 ml | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-7-aminomethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 2.9 g, 71% | C(C)(C)(C)OC(=O)C1=C(SC=2C(OCCC21)CN)N | C13H20N2O3S
